US06506901B2
Step D {1-[4-(3-Methyl-2-oxo-imidazolidin-1-yl)-benzenesulfonyl]-piperidin-4-ylmethyl}-carbamic Acid t-Butyl Ester
Prepared according to the procedure used for example 46 (Step A, part 1) from piperidin-4-ylmethyl-carbamic acid t-butyl ester (1.09 g, 5.1 mmol), 4-(3-methyl-2-oxo-imidazolidin-1-yl)-benzenesulfonyl chloride (1.4 g, 5.1 mmol) and 0.89 mL of diisopropylethyl amine to give 1.5 g of the title compound

reactant | piperidin-4-ylmethyl-carbamic acid t-butyl ester | 5.1 mmol, 1.09 g | C(C)(C)(C)OC(NCC1CCNCC1)=O | C11H22N2O2
reactant | 4-(3-methyl-2-oxo-imidazolidin-1-yl)-benzenesulfonyl chloride | 5.1 mmol, 1.4 g | CN1C(N(CC1)C1=CC=C(C=C1)S(=O)(=O)Cl)=O | C10H11ClN2O3S
reactant | diisopropylethyl amine | 0.89 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | {1-[4-(3-Methyl-2-oxo-imidazolidin-1-yl)-benzenesulfonyl]-piperidin-4-ylmethyl}-carbamic Acid t-Butyl Ester | 1.5 g | C(C)(C)(C)OC(NCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)N1C(N(CC1)C)=O)=O | C21H32N4O5S
